US05455351
B. 4-Chloromethyl-2-isopropyloxazole
A solution of 4-chloromethyl-4-hydorxy-2-isopropyloxazoline (4.88 g, 0.0275 mol) in 1,2-dichloroethane (20 mL) was added to a solution of SOCl2 (2.40 mL, 0.0329 mol)in 1,2-dichloroethane (80 mL) at 0° C. under argon, and the solution was heated to 70° C. After 15 min at 70° C., the reaction was cooled to room temperature and the solvent removed by rotary evaporation in vacuo. Drying the residue on high vacuum gave the desired compound as a brown semi-solid (4.20 g, 0.0263 mol, 96%): 1H NMR (CDCl3)δ1.36 (d, J=7.5 Hz, 6H), 3.03-3.18 (m, 1H), 4.50 (s, 2H), 7.56 (s, 1H). Mass spectrum: (M+H)+ =160, 162.

reactant | 4-chloromethyl-4-hydorxy-2-isopropyloxazoline | 0.0275 mol, 4.88 g | ClCC1(N=C(OC1)C(C)C)O | C7H12ClNO2
reactant | SOCl2 | 0.0329 mol, 2.40 mL | O=S(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-isopropyloxazole | 0.0263 mol, 4.20 g, 96% | ClCC=1N=C(OC1)C(C)C | C7H10ClNO
